US04130562
A mixture of 8.26 g (0.052 mol) of 2-(4-methyl-5-thiazolyl)-ethyl-mercaptan and 33.07 g (0.208 mol) of dimethyldisulphide is treated with 50 mg of sodium hydride (50% dispersion in oil) and the mixture is heated to reflux for 4 hours. The mixture is then left to cool, filtered over 10 g of aluminium oxide (activity I, neutral), which is back-washed with ether, and concentrated in a vacuum. The resulting crude product (9.5 g) is distilled through a Hempel column under a high vacuum, there being obtained 6.45 g of [2-(4-methyl-5-thiazolyl)-ethyl]-methyl-disulphide. Boiling point 104°-110°/0.02 mm Hg; nD20 = 1.5944; purity: 99%. IR (liq.): bands inter alia at 3100, 2960, 1545, 1415, 1220, 955, 1005, 840, 795 cm-1.

reactant | 2-(4-methyl-5-thiazolyl)-ethyl-mercaptan | 0.052 mol, 8.26 g | CC=1N=CSC1CCS | C6H9NS2
reactant | dimethyldisulphide | 0.208 mol, 33.07 g | CSSC | C2H6S2
catalyst | sodium hydride | 50 mg | [H-].[Na+]
product | [2-(4-methyl-5-thiazolyl)-ethyl]-methyl-disulphide | 6.45 g | CC=1N=CSC1CCSSC | C7H11NS3
